US06972294B1
(2S)-3-[4-(3,3-Di-p-tolyl-allyloxy)-phenyl]-2-ethoxy-propionic acid ethyl ester
Reaction of 3,3-di-(4-methylphenyl)-prop-2-en-1-ol (1.0 g, 4.20 mmol), tributylphosphine (1.27 g, 6.30 mmol), (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (1.10 g, 4.62 mmol) and azodicarboxylic dipiperidide (1.59 g, 6.30 mmol) in an identical manner to example 3 gave the title compound (0.76 g, 39%).

reactant | 3,3-di-(4-methylphenyl)-prop-2-en-1-ol | 4.20 mmol, 1.0 g | CC1=CC=C(C=C1)C(=CCO)C1=CC=C(C=C1)C | C17H18O
reactant | tributylphosphine | 6.30 mmol, 1.27 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 4.62 mmol, 1.10 g | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
product | (2S)-3-[4-(3,3-Di-p-tolyl-allyloxy)-phenyl]-2-ethoxy-propionic acid ethyl ester | 0.76 g, 39% | C(C)OC([C@H](CC1=CC=C(C=C1)OCC=C(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)OCC)=O | C30H34O4
